US08629270B2
Benzyl N-allyl-N-[2-hydroxyiminoethyl]carbamate
A solution of benzyl N-allyl-N-(2-oxoethyl)carbamate (25 g, 107 mmol) in acetonitrile (150 mL) is treated with hydroxylamine hydrochloride (9.68 g, 139 mmol) and a solution of sodium acetate trihydrate (16 g, 117.9 mmol) in water (75 mL). The mixture is stirred at room temperature overnight. The acetonitrile is evaporated and the aqueous solution is extracted with ethyl acetate. The organic layer is separated, dried over magnesium sulfate, and concentrated under vacuum to give the title compound (24 g, 90%). ES/MS (m/e): 249 (M+H).

reactant | benzyl N-allyl-N-(2-oxoethyl)carbamate | 107 mmol, 25 g | C(C=C)N(C(OCC1=CC=CC=C1)=O)CC=O | C13H15NO3
reactant | hydroxylamine hydrochloride | 139 mmol, 9.68 g | Cl.NO
reactant | sodium acetate trihydrate | 117.9 mmol, 16 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | 75 mL | O | H2O
product | Benzyl N-allyl-N-[2-hydroxyiminoethyl]carbamate | 24 g, 90% | C(C=C)N(C(OCC1=CC=CC=C1)=O)CC=NO | C13H16N2O3
